US08084448B2
C. 5-{4-[3-(1,1-Dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-{2-benzyloxy-4-[3-(1,1-dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one in methylene chloride (5 mL) is added BBr3 (0.35 mL of 1.0 M in methylene chloride) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue purified by preparative HPLC followed by lyophilization to give the title compound: (M−1)−=383; HPLC retention time=0.72 min. (Method A)

reactant | 5-{2-benzyloxy-4-[3-(1,1-dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C#CCC1S(CCC1)(=O)=O)N1CC(NS1(=O)=O)=O | C22H22N2O6S2
reactant | BBr3 | 1.0 M, 0.35 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-{4-[3-(1,1-Dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | O=S1(C(CCC1)CC#CC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O)=O | C15H16N2O6S2
